US07163937B2
Synthesis of (S)-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(isopropylsulfonylmethyl)cyclohexyl)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one
Example-10b, Step 4: To a solution of (S)-3-amino-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(isopropylsulfonylmethyl)cyclohexyl)pyrrolidin-2-one (75 mg, 0.14 mmol) in EtOH (2 mL) was added triethylamine (0.12 mL, 0.84 mmol) and 4-chloro-6-(trifluoromethyl)quinazoline (39 mg, 0.16 mmol). The mixture was heated at 80° C. for 14 h and then concentrated in vacuo. The residue was purified by HPLC to provide the title compound, (S)-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(isopropylsulfonylmethyl)cyclohexyl)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one (35 mg, 44% yield). MS found: (M+H)+=570.

reactant | (S)-3-amino-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(isopropylsulfonylmethyl)cyclohexyl)pyrrolidin-2-one | 0.14 mmol, 75 mg | N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)N(C)C(C)C)CS(=O)(=O)C(C)C)=O | C18H35N3O3S
reactant | triethylamine | 0.84 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 0.16 mmol, 39 mg | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
solvent | EtOH | 2 mL | CCO | C2H6O
product | (S)-1-((1S,2R,4R)-4-(isopropyl(methyl)amino)-2-(isopropylsulfonylmethyl)cyclohexyl)-3-(6-(trifluoromethyl)quinazolin-4-ylamino)pyrrolidin-2-one | 35 mg, 44% yield | C(C)(C)N([C@H]1C[C@H]([C@H](CC1)N1C([C@H](CC1)NC1=NC=NC2=CC=C(C=C12)C(F)(F)F)=O)CS(=O)(=O)C(C)C)C | C27H38F3N5O3S
